US05811459
5-{-4-[3-(2-Benzyloxyphenyl)-propyl]phenyl}tetrazole
2-(Pivaloyloxymethyl)-5-{-4-[3-(2-hydroxyphenyl)propyl]-phenyl}tetrazole was converted to 2-(pivaloyloxymethyl)-5-{-4-[3-(2-benzyloxyphenyl)propyl]phenyl}tetrazole by the process described in Example 1 for the conversion of 4-[3-(2-hydroxyphenyl)propyl]benzoate to methyl 4-[3-(2-benzyloxyphenyl)propyl]benzoate.

reactant | 2-(Pivaloyloxymethyl)-5-{-4-[3-(2-hydroxyphenyl)propyl]-phenyl}tetrazole | C(C(C)(C)C)(=O)OCN1N=C(N=N1)C1=CC=C(C=C1)CCCC1=C(C=CC=C1)O | C22H26N4O3
reactant | 2-(pivaloyloxymethyl)-5-{-4-[3-(2-benzyloxyphenyl)propyl]phenyl}tetrazole | C(C(C)(C)C)(=O)OCN1N=C(N=N1)C1=CC=C(C=C1)CCCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C29H32N4O3
reactant | 4-[3-(2-hydroxyphenyl)propyl]benzoate | OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)[O-])C=C1
reactant | methyl 4-[3-(2-benzyloxyphenyl)propyl]benzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C24H24O3
product | 5-{-4-[3-(2-Benzyloxyphenyl)-propyl]phenyl}tetrazole | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C=C1)C1=NN=NN1 | C23H22N4O
